US07163947B2
A suspension of 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (1.00 g, 2.76 mmol) in 20 mL of 1-propanol was treated with 3-(methanesulfonylamino)phenylboronic acid (0.653 g, 3.04 mmol). The headspace of the reaction flask was purged and back-filled with nitrogen (3×). The reaction mixture was then treated with triphenylphosphine (11 mg, 0.041 mmol), sodium carbonate (1.66 mL, 3.31 mmol, 2 M solution in H2O), H2O (2 mL) and palladium (II) acetate (3.1 mg, 0.014 mmol). Again the headspace of the reaction flask was purged and back-filled with nitrogen (3×). The reaction was heated to 100° C. After 17 h, the reaction was cooled to ambient temperature and concentrated under reduced pressure to yield a brown solid. The solid was partitioned between 15 mL of H2O and 15 mL of CHCl3 and then separated. The aqueous portion was extracted with CHCl3 (2×15 mL). The combined organic extracts were washed with brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan foam. The material was purified by chromatography (SiO2, 50% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) and then dissolved in boiling CHCl3 and slowly cooled to yield N-{3-[4-amino-1-(isopropylamino)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]phenyl}methanesulfonamide (0.700 g) as a white solid. mp 217–227° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.85 (s, 1H), 8.54 (d, J=8.5 Hz, 1H), 7.79 (d, J=1.4 Hz, 1H), 7.60 (s, 1H), 7.52–7.42 (m, 3H), 7.22 (d, J=7.8 Hz, 1H), 7.01 (s, 1H), 6.55 (s, 2H), 3.55–3.51 (m, 1H), 3.06 (s, 3H), 2.92 (bs, 2H), 1.91–1.84 (m, 2H), 1.05–1.01 (m, 9H); 13C NMR (125 MHz, DMSO-d6) δ 155.4, 152.9, 145.8, 142.4, 139.9, 138.6, 133.1, 130.8, 124.9, 124.2, 123.1, 122.5, 120.2, 119.5, 118.7, 114.9, 51.8, 28.7, 21.6, 21.1, 14.8; MS (APCI) m/z 453 (M+H)+; Anal. Calcd for C23H28N6O2S: C, 61.04; H, 6.24; N, 18.57; Found: C, 60.66; H, 60.40; N, 18.47.

reactant | 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 2.76 mmol, 1.00 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)CCC | C16H20BrN5
reactant | 3-(methanesulfonylamino)phenylboronic acid | 3.04 mmol, 0.653 g | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | sodium carbonate | 3.31 mmol, 2 M, 1.66 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | 1-propanol | 20 mL | C(CC)O | C3H8O
catalyst | palladium (II) acetate | 0.014 mmol, 3.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.041 mmol, 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | N-{3-[4-amino-1-(isopropylamino)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yl]phenyl}methanesulfonamide | 0.700 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2NC(C)C)CCC)C=2C=C(C=CC2)NS(=O)(=O)C | C23H28N6O2S
